US05750531
Step 1: 6-methyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine
In accordance with the same procedure as in Step 1 of Example 1, except that 6-methyl-2,4-dichloropyrimidine (3.26 g, 20 mmol), 1,2,3,4-tetrahydroisoquinoline(2.6 ml, 20.5 mmol), triethylamine(3.4 ml, 24.4 mmol) and N,N-dimethyl formamide (10 ml) were used as starting materials, 3.1 g of the titled compound was prepared. (Yield: 59.7%)

reactant | 6-methyl-2,4-dichloropyrimidine | 20 mmol, 3.26 g | CC1=CC(=NC(=N1)Cl)Cl | C5H4Cl2N2
reactant | 1,2,3,4-tetrahydroisoquinoline | 20.5 mmol, 2.6 ml | C1NCCC2=CC=CC=C12 | C9H11N
reactant | triethylamine | 24.4 mmol, 3.4 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-methyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 3.1 g, Yield: 59.7% | CC1=CC(=NC(=N1)Cl)N1CC2=CC=CC=C2CC1 | C14H14ClN3
